US07452885B2
Preparation of 3-Ethynyl-1,1′-biphenyl
To a solution of (1,1′-biphenyl-3-ylethynyl)(trimethyl)silane (4.74 g, 18.96) in 1/1 EtOH/CH2Cl2 (60 mL) is added Cs2CO3 (6.78 g, 20.85 mmol) at room temperature. After stirring for 1 h, the insoluble material is filtered off and the filtrate is concentrated. The crude material is purified by chromatography (silica gel, 100% hexane) to give the title compound (3.07 g, 91%) as an oil. MS (+) EI: 178 M+.

reactant | (1,1′-biphenyl-3-ylethynyl)(trimethyl)silane | 4.74 g | C1(=CC(=CC=C1)C#C[Si](C)(C)C)C1=CC=CC=C1 | C17H18Si
reactant | Cs2CO3 | 20.85 mmol, 6.78 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | EtOH CH2Cl2 | 60 mL | CCO.C(Cl)Cl
product | 3-Ethynyl-1,1′-biphenyl | 3.07 g, 91% | C(#C)C=1C=C(C=CC1)C1=CC=CC=C1 | C14H10
